US04009208
The intermediate 4-cyclopropyloxybenzoic acid was prepared as follows: A 66.5 g. portion of ethyl 4-hydroxybenzoate was dissolved in 800 ml. of dimethylformamide and to the solution was added 83.0 g. of anhydrous potassium carbonate and 5 g. of potassium iodide. To the resulting stirred suspension was added 60.5 g. of cyclopropyl bromide. The stirred reaction mixture was refluxed for 6 days and the hot reaction mixture was filtered to remove the inorganic solids which were washed well with dimethylformamide. The combined filtrate and dimethylformamide washings were evaporated in vacuo and the remaining liquid-solid residue was taken up in a mixture of 500 ml. of water and 500 ml. of ether. The resulting mixture was shaken well and the layers were separated. The aqueous layer was extracted with 200 ml. of ether. The combined ether solutions were washed successively with two 250 ml. portions of aqueous potassium hydroxide solution, next with 200 ml. 0.5N hydrochloric acid and then with two 100 ml. portions of water. The ether solution was dried over anhydrous magnesium sulfate and the ether removed in vacuo to yield, as an amber liquid, 36.2 g. of ethyl 4-cyclopropyloxy-benzoate.

reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | cyclopropyl bromide | C1(CC1)Br | C3H5Br
reactant | ethyl 4-cyclopropyloxy-benzoate | C1(CC1)OC1=CC=C(C(=O)OCC)C=C1 | C12H14O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-cyclopropyloxybenzoic acid | C1(CC1)OC1=CC=C(C(=O)O)C=C1 | C10H10O3
